US05234818
3-Amino-2-methylpyrazolo[1,5-a]pyridine hydrochloride
7 g. 3-Acetyl-2-methylpyrazolo[1,5-a]pyridine (see J. Org. Chem., 42, 443/1977) are dissolved in 140 ml. 6N hydrochloric acid and mixed dropwise at 0° C. with a solution of 5.52 g. sodium nitrite in water. After 2 hours, the ice-bath used for the cooling is removed and the reaction mixture is left to stand overnight at ambient temperature and then adjusted to pH 9. The precipitated nitroso compound (6.4 g.) is filtered off with suction and dissolved in about 150 ml. 2N hydrochloric acid. The nitroso compound is reduced with zinc dust analogously to Example 1.2. The crude product is chromatographed on silica gel with ethyl acetate. The product-containing fractions are evaporated, the residue is dissolved in ethanol and the solution is mixed with ethanolic hydrogen chloride. The precipitate which is obtained after some time is filtered off with suction and dried. There are obtained 3.1 g. (45% of theory) of the title compound; m.p. >275° C.; TLC (silica gel, ethyl acetate/acetone/glacial acetic acid/water 50:25:12.5:12.5 v/v/v/v): Rf =0.6.

reactant | 3-Acetyl-2-methylpyrazolo[1,5-a]pyridine | C(C)(=O)C=1C(=NN2C1C=CC=C2)C | C10H10N2O
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 3-Amino-2-methylpyrazolo[1,5-a]pyridine hydrochloride | Cl.NC=1C(=NN2C1C=CC=C2)C | InChI=1S/C8H9N3.ClH/c1-6-8(9)7-4-2-3-5-11(7)10-6;/h2-5H,9H2,1H3;1H
